US08754079B2
XXXV.1. [trans-3-(5-fluoro-2-nitro-phenoxy)-cyclobutyl]-carbamic acid tert-butyl ester
Prepared analogously to XVI.1 from 2.3 g trans-(3-Hydroxy-cyclobutyl)-carbamic acid tert-butyl ester, 1.6 g 5-fluoro-2-nitrophenol and 2.423 mIDIAD.

reactant | trans-(3-Hydroxy-cyclobutyl)-carbamic acid tert-butyl ester | 2.3 g | C(C)(C)(C)OC(N[C@@H]1C[C@H](C1)O)=O | C9H17NO3
reactant | 5-fluoro-2-nitrophenol | 1.6 g | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
product | [trans-3-(5-fluoro-2-nitro-phenoxy)-cyclobutyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C[C@H](C1)OC1=C(C=CC(=C1)F)[N+](=O)[O-])=O | C15H19FN2O5
